US03961062
1-(1-Imidazolyl)-4-cyclohexylisoquinoline
3.4 g (50 mmoles) of imidazole were allowed to react with 1.9 g (49 mmoles) of sodium amide in 50 ml of absolute dioxane until the evolution of ammonia was finished. Then 9 g (37 mmoles) of 1-chloro-4-cyclohexyl-isoquinoline were added and the solvent was evaporated. The reaction mixture was heated for 3 hours to 140° C, distributed between methylene chloride and water and the organic phase was evaporated after having been dried over magnesium sulfate. The oily crude product was taken up in 30 ml of ether and crystallized upon trituration. M.p. 92° to 93° C, hydrochloride M.p. 228° to 229° C.

reactant | imidazole | 50 mmoles, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | sodium amide | 49 mmoles, 1.9 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | 1-chloro-4-cyclohexyl-isoquinoline | 37 mmoles, 9 g | ClC1=NC=C(C2=CC=CC=C12)C1CCCCC1 | C15H16ClN
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1-(1-Imidazolyl)-4-cyclohexylisoquinoline | N1(C=NC=C1)C1=NC=C(C2=CC=CC=C12)C1CCCCC1 | C18H19N3
